US05834521
2-[(3-Acetamidophenyl)methyl]-2-methyl-1-indanone
Acetic anhydride (41.75 mL, 0.46 mol) was added to a stirred solution of 2-[(3-aminophenyl)methyl]-2-methyl-1-indanone (37.00 g, 0.147 mol) in ethyl acetate (800 mL) and this mixture was stirred at room temperature for 2 h. Saturated sodium bicarbonate (600 mL) was added to the resulting mixture, followed by successive washes of the aqueous layer with ethyl acetate. The combined organic extracts were washed with water (500 mL), dried (MgSO4) and concentrated in vacuo to give the title compound as an oil: 1H NMR (CDCl3) 7.7 (doublet, 1H), 7.55-7.15 (multiplet, 5H), 7.1 (doublet, 1H), 6.85 (doublet, 1H), 3.25 (doublet, 1H), 2.9 (doublet, 1H), 2.7 (doublet, 1H), 2.1 (singlet, 3H), 2.1 (doublet, 1H), 1.2 (singlet, 3H).

reactant | Acetic anhydride | 0.46 mol, 41.75 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[(3-aminophenyl)methyl]-2-methyl-1-indanone | 0.147 mol, 37.00 g | NC=1C=C(C=CC1)CC1(C(C2=CC=CC=C2C1)=O)C | C17H17NO
reactant | sodium bicarbonate | 600 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(3-Acetamidophenyl)methyl]-2-methyl-1-indanone | C(C)(=O)NC=1C=C(C=CC1)CC1(C(C2=CC=CC=C2C1)=O)C | C19H19NO2
